US05229518
(2S,3S, 5S)-2-Benzyloxycarbonylamino-1-cyclohexyl-3,6-dihydroxy-5-isopropylhexane
To (2S,4S,5S)-5-benzyloxycarbonylamino-6-cyclohexyl-2-isopropyl-4-hexanolide(J. Med. Chem. 31, 1839-46 (1988), 3.88 g, 10.0 mmol) and CaCl2 (2.22 g, 20.0 mmol) dissolved in a mixture of 60 mL ethanol and 60 mL THF and cooled to 0° C. was added portionwise NaBH4 (1.5 g, 40.0 mmol) resulting in vigorous gas evolution and an exotherm. The resulting solution was stirred at 0° C. for 1 hour and then at ambient temperature for 1 hour, diluted with 100 mL of diethyl ether and filtered through a plug of Celite®. The filtrate was cooled to 0° C. and quenched by the addition of 1M KHSO4 until bubbling ceased. The organic phase was washed with 2×20 mL of saturated NaHCO3 and 2×20 mL of saturated brine, dried (MgSO4) and concentrated in vacuo to a give a white solid. Recrystallization from EtOAc/hexanes gave 3.67 g (94%) of the (2S,3S,5S)-diastereomer. m.p. 113°-114° C. [α]25D =-32.0° (c=1.025, CHCl3). 1H NMR (C6D6, 300 HMz) δ 0.76 (d, J=7.5 Hz, 3H), 0.79 (d, J=7.5 Hz), 3H), 0.75-1.74 (complex m, 18H), 1.98-2.09 (bd, J=11.1 Hz, 1H), 3.28-3.41 (m, 2H), 3.62-3.70 (m, 1H), 3.90-4.00 (m, 1H), 4.88 (d, J=9.6 Hz, 1H), 5.12 (s, 2H), 7.00-7.30 (m, 5H). MS (DCI/NH3) 392 (M+H)+, 409 (M+NH4)+. Analysis calcd for C23H37NO4 : C, 70.55; H, 9.52; N, 3.58. Found: C, 70.78; H, 9.54; N, 3.56.

reactant | (2S,4S,5S)-5-benzyloxycarbonylamino-6-cyclohexyl-2-isopropyl-4-hexanolide | 10.0 mmol, 3.88 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H]1C[C@H](C(=O)O1)C(C)C)CC1CCCCC1 | C23H33NO4
reactant | CaCl2 | 20.0 mmol, 2.22 g | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 40.0 mmol, 1.5 g | [BH4-].[Na+]
reactant | NH3 | N | H3N
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (2S,3S, 5S)-2-Benzyloxycarbonylamino-1-cyclohexyl-3,6-dihydroxy-5-isopropylhexane | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1CCCCC1)[C@H](C[C@H](CO)C(C)C)O | C23H37NO4
